Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5][H:6].[H:1][C:2]=[C:3]([H:4])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-6.080058301009999
[H:1]/[C:2]([C:3]([H:4])([H:5])[O:6][O:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][O:7][C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],-0.13220071123
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.03830203165
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2][H:3],7.40976379
[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][H:10].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][H:10],-5.19227733858
[H:1][C:2]([H:3])/[C:4](=[C:5]1\[O:6][C:7]1([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([C:5][O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],2.3578296801400005
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:6],4.60029895111
[C:5](#[C:6][C:7]([H:8])([H:9])[H:10])[O:11][H:12].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6]/[C:7]([H:8])([H:9])[H:10])[O:11][H:12],0.5851627368810001
[H:11].[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.56409006976
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[O:14][H:15],5.373991296
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],3.97657260325
[C:2]([H:3])#[C:4][C:5][O:6][C:7]([H:8])([H:9])[H:10].[O:1]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10],-6.48211803033
[H:1].[O:2]=[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][O:2]/[C:3]=[C:4](/[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.01523805386
[H:1][C:2][O:3]/[C:4]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.15033045785
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7](=[O:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]([H:3])([H:4])=[C:5]([H:6])[C:7](=[O:8])[C:9]([H:10])([H:11])[H:12].[O:1],1.7935647143400002
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[C:13]([H:14])([H:15])[H:16],4.22339443533
[H:1][O:2].[O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-1.37856339038
[H:1][C:2]#[C:3][O:4][C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][O:4][C:5](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:6],1.6450177127
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[C:1]#[C:2][C:3]([H:4])=[C:6]([H:7])[H:8].[H:5],1.5136830387399998
[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-7.00746401727
[H:9].[O:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])[H:8])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[O:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.61811748362
[H:1][C:2]([C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12],-0.937760069531
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[C:7]=[C:8]([H:9])[H:10].[O:1][O:2][C:3][C:4]([H:5])[H:6],1.15217089095
[C:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([O:3][C:4]([H:5])=[C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8],5.1397291461300005
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[O:1]=[C:2][H:3],1.19877091861
[C:6][H:7].[O:1]=[C:2]([O:3][H:4])[C:5][C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([O:3][H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-7.998579421960001
[H:13].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-1.7707822021
[C:3](=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])\[C:13]([H:14])([H:15])[H:16].[H:1][O:2]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-5.96958293342
